US09388149B2
12.9 ml (93 mmol; 3.0 eq) of triethylamine and 93 ml of 2 M dimethylamine in tetrahydrofuran were added dropwise to a solution of 9.55 g (31 mmol; 1.0 eq) of 2-tert-butyl-6-chlorobenzoxazole-7-sulfonyl chloride in 200 ml of tetrahydrofuran cooled to 0° C. The reaction medium was stirred at 0° C. for 3 hours and was then treated with water. The reaction medium was extracted with ethyl acetate. The organic phases were combined, washed with water, dried over magnesium sulfate, filtered and evaporated. 9.12 g of 2-tert-butyl-6-chlorobenzooxazole-7-sulfonic acid dimethylamide were obtained in the form of a beige solid. Yield=93%.

reactant | triethylamine | 93 mmol, 12.9 ml, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 2 M, 93 ml | CNC | C2H7N
reactant | 2-tert-butyl-6-chlorobenzoxazole-7-sulfonyl chloride | 31 mmol, 9.55 g, 1.0 eq | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-tert-butyl-6-chlorobenzooxazole-7-sulfonic acid dimethylamide | 9.12 g, Yield=93% | CN(S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)C | C13H17ClN2O3S
